US06348032B1
1.6M-n-Butyllithiumhexane solution (30 ml) is added to tetrahydrofuran (30 ml) the tetrahydrofuran is chilled to −78° C. under a nitrogen environment beforehand. Subsequent to this addition, a tetrahydrofuran (30 ml) solution of 4-bromo-2-fluorotoluene (9.21 g) is added. Then, the solution is stirred for one hour at −78° C. A tetrahydrofuran (30 ml) solution of zinc chloride (6.64 g), which had been heat-dissolved and dehydrated under reduced pressure, is added to the solution at −78° C. and the solution is stirred for one hour at room temperature. This solution is added to a tetrahydrofuran (30 ml) solution of iodobenezen (6.63 g) and tetrakis(triphenylphosphyne)palladium (0.52 g) at room temperature, and the solution is stirred for a day and a night. The reaction solution is diluted with ethyl acetate (300 ml), 10% hydrochloric acid is added, and extraction is performed. After the organic layer is washed with a saturated saline solution and dried, it is concentrated. The residue is purified using silica gel column chromatography (eluate: hexane) and thus, oily 3-fluoro-4-methylbiphenyl (6.00 g) is obtained. 1H-NMR (CDCl3, δ): 2.31 (3H, d, J=1.8 Hz), 7.20-7.28 (3H, m), 7.34 (1H, m), 7.43 (2H, t), 7.55 (2H, d).

reactant | n-Butyllithiumhexane | 30 ml | CCCCCC.C(CCC)[Li]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | 4-bromo-2-fluorotoluene | 9.21 g | BrC1=CC(=C(C=C1)C)F | C7H6BrF
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
catalyst | zinc chloride | 6.64 g | [Cl-].[Zn+2].[Cl-]
product | 3-fluoro-4-methylbiphenyl | 6.00 g | FC=1C=C(C=CC1C)C1=CC=CC=C1 | C13H11F
